US04411839
A mixture of 1 mole of cyanoacetic acid, 1 mole of 1-(2,6-dimethylphenyl)semicarbazide and 300 ml of acetic anhydride is heated to 80° for 2 hours. The mixture is cooled to RT, 50 ml of ether is added and it is stirred at RT overnight. The reaction mixture is filtered, washed with ether (3X) and dried to give N-(2-cyanoacetyl)-1-(2,6-dimethylphenyl)semicarbazide.

reactant | cyanoacetic acid | 1 mole | C(#N)CC(=O)O | C3H3NO2
reactant | 1-(2,6-dimethylphenyl)semicarbazide | 1 mole | CC1=C(C(=CC=C1)C)NNC(=O)N | C9H13N3O
reactant | acetic anhydride | 300 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-(2-cyanoacetyl)-1-(2,6-dimethylphenyl)semicarbazide | C(#N)CC(=O)N(NC(=O)N)C1=C(C=CC=C1C)C | C12H14N4O2
